US08877944B2
To a solution of 8,8-dichloro-1,4-dioxaspiro[4.5]decane (0.27 g, 1.28 mmol) in acetone (3.5 mL), aqueous 2N hydrochloric acid (5 mL) was added and the reaction mixture was stirred at room temperature overnight, diluted with water and extracted twice with diethyl ether. The combined organic phases were washed with water, brine, dried over sodium sulfate and evaporated to dryness. The resulting crude 4,4-dichlorocyclohexanone, obtained as a white solid, was used in the next steps without any further purification (0.17 g, 78% yield).

reactant | 8,8-dichloro-1,4-dioxaspiro[4.5]decane | 1.28 mmol, 0.27 g | ClC1(CCC2(OCCO2)CC1)Cl | C8H12Cl2O2
reactant | hydrochloric acid | 2N, 5 mL | Cl | ClH
solvent | acetone | 3.5 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4,4-dichlorocyclohexanone | 78% yield | ClC1(CCC(CC1)=O)Cl | C6H8Cl2O
